US08232288B2
Stage (ii): 9-(Azetidin-1-Yl)-3-azaspiro[5.5]undecane dihydrochloride
Hydrogen chloride in methanol (1.25 mol/l, 15.5 ml) was added to tert-butyl 9-(azetidin-1-yl)-3-azaspiro[5.5]undecane-3-carboxylate (1 g, 3.24 mmol) and the mixture was refluxed for 45 min. The solvent was removed in vacuo and the residue was dissolved in a small amount of ethanol. A solid was then precipitated out by addition of acetone, and finally diethyl ether was added and the precipitate formed was filtered off with suction. Yield: 0.87 g (95%)

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl 9-(azetidin-1-yl)-3-azaspiro[5.5]undecane-3-carboxylate | 3.24 mmol, 1 g | N1(CCC1)C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C18H32N2O2
solvent | methanol | 1.25 mol/l, 15.5 ml | CO | CH4O
product | 9-(Azetidin-1-Yl)-3-azaspiro[5.5]undecane dihydrochloride | Cl.Cl.N1(CCC1)C1CCC2(CCNCC2)CC1 | InChI=1S/C13H24N2.2ClH/c1-10-15(11-1)12-2-4-13(5-3-12)6-8-14-9-7-13;;/h12,14H,1-11H2;2*1H
